* PEX produced on Sa 12. Sep 18:48:51 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from low_th_inverter_pex.ext - technology: ihp-sg13cmos5l

.subckt low_th_inverter_pex VDD vin vout VSS
X0 VSS.t3 vin vout VSS.t2 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X1 vout vin VSS.t1 VSS.t0 sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X2 vout vin VDD VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.4u
X3 VDD vin vout VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.4u
R0 VSS.t2 VSS.t0 66.0202
R1 VSS.n0 VSS.n14 17.0005
R2 VSS.n0 VSS.n11 17.0005
R3 VSS.n13 VSS.t1 17.0005
R4 VSS.n3 VSS.n10 17.0005
R5 VSS.n3 VSS.n6 17.0005
R6 VSS.t3 VSS.n7 17.0005
R7 VSS.n1 VSS.n3 0.00149092
R8 VSS.n0 VSS.n1 0.00217838
R9 VSS.t1 VSS.n12 8.49201
R10 VSS.n8 VSS.t3 8.49201
R11 VSS.n15 VSS.n0 5.66717
R12 VSS.n0 VSS.n2 1.1794
R13 VSS.n0 VSS.n5 1.27506
R14 VSS.n5 VSS.n4 0.454372
R15 VSS.n2 VSS.n12 0.311917
R16 VSS.n7 VSS.n5 0.304977
R17 VSS.n9 VSS.n2 0.383546
R18 VSS.n10 VSS.n9 0.053412
R19 VSS.n15 VSS.n4 0.0338028
R20 VSS.n13 VSS.n11 0.028257
R21 VSS.n7 VSS.n6 0.028257
R22 VSS.n12 VSS.n11 0.0271959
R23 VSS.n8 VSS.n6 0.0271959
R24 VSS.n10 VSS.n8 0.0261679
R25 VSS VSS.n15 0.0156376
R26 VSS.n14 VSS.n4 0.0087243
R27 VSS.n14 VSS.n13 0.00769626
R28 VSS.n0 VSS.t0 0.063602
R29 VSS.n1 VSS.n9 8.49331
C0 vin vout 0.44759f
C1 vout VDD 0.35765f
C2 vin VDD 0.78777f
C3 vout VSS 1.13463f
C4 VDD VSS 0.72138f
C5 VSS.t3 VSS 0.50109f
.ends

