* PEX produced on Do 17. Sep 15:13:59 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from lvl_shift_up_pex.ext - technology: ihp-sg13cmos5l

.subckt lvl_shift_up_pex VDD in out VSS
X0 VDD in hv_inverter_6u5_0.in VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X1 hv_inverter_6u5_0.in in VSS.t1 VSS.t0 sg13_hv_nmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.45u
X2 VSS.t3 in hv_inverter_6u5_0.in VSS.t2 sg13_hv_nmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.45u
X3 hv_inverter_6u5_0.in in VDD VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X4 out hv_inverter_6u5_0.in VDD VDD sg13_hv_pmos ad=2.21p pd=13.68u as=2.21p ps=13.68u w=6.5u l=0.4u
X5 out hv_inverter_6u5_0.in VSS VSS.t4 sg13_hv_nmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.45u
R0 VSS.n4 VSS.n0 472.36
R1 VSS.t2 VSS.n0 39.5806
R2 VSS.n8 VSS.t4 100.001
R3 VSS.t4 VSS.n6 108.055
R4 VSS.t0 VSS.n0 38.692
R5 VSS.n10 VSS.n9 27.5319
R6 VSS VSS.t3 0.468019
R7 VSS.n3 VSS 0.294063
R8 VSS.n5 VSS.n2 0.858375
R9 VSS.n0 VSS.n1 0.0515065
R10 VSS.n1 VSS.t1 0.791299
R11 VSS.n8 VSS.n7 17.0005
R12 VSS.n10 VSS.n8 13.7662
R13 VSS.n9 VSS.n4 28.8471
R14 VSS.n6 VSS.n7 0.00235102
R15 VSS.n3 VSS.n7 0.662692
R16 VSS.n5 VSS.n4 0.148583
R17 VSS.n6 VSS.n5 0.00422672
R18 VSS.n5 VSS.n10 1.61841
R19 VSS.n9 VSS.n7 1.61841
R20 VSS VSS.n1 0.328863
R21 VSS.n2 VSS 0.380796
R22 VSS.n3 VSS.n2 1.66515
C0 out VDD 1.40956f
C1 VDD hv_inverter_6u5_0.in 1.16307f
C2 out hv_inverter_6u5_0.in 0.87229f
C3 VDD in 0.79649f
C4 in hv_inverter_6u5_0.in 1.22376f
C5 out VSS 3.05233f
C6 VDD VSS 4.91383f
.ends

