* PEX produced on Fr 18. Sep 10:52:40 CEST 2026 using scripts/sak-pex.sh with m=1 and s=1
* NGSPICE file created from osc_pex.ext - technology: ihp-sg13cmos5l

.subckt osc_pex VDD out1 ictrl VSS c1 out2 c2
X0 VDD ictrl c2 VDD sg13_hv_pmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X1 VSS c2 out1 VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X2 out1 ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=3.4p ps=20.68u w=10u l=2u
X3 VSS c2 c2 VSS sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=2u
X4 VDD ictrl out2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=2u
X5 ictrl ictrl VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=2u
X6 c1 ictrl VDD VDD sg13_hv_pmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X7 c1 c1 VSS VSS sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=2u
X8 out2 c1 VSS VSS sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
C0 out2 VSS 18.7051f
C1 out1 VSS 30.7342f
C2 VDD VSS 15.09356f
.ends

